US07045545B1
N-tert-butoxycarbonyl 1-(2-formyl-5-fluorobenzofur-7-yl)-2-aminopropane
A solution of 0.50 gm (1.7 mMol) N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane in 75 mL tetrahydrofuran was cooled to −78° C. under a nitrogen atmosphere. To this solution were then added 2.4 mL (3.81 mMoL) n-butyllithium (1.6 M in hexane) dropwise, resulting in an orange solution. After 5 minutes 0.66 mL (8.52 mMol) dimethylformamide were added dropwise. After stirring 18 hours at room temperature the reaction mixture was quenched by addition of 20 mL saturated aqueous ammonium chloride. The reaction mixture was partitioned between 300 mL ethyl acetate and 300 mL water. The phases were separated and the aqueous phase was extracted twice with 200 mL ethyl acetate. The organic phases were combined and washed sequentially with two 200 mL portions of water and one 200 mL portion of saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with hexane containing 20% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.38 gm (69%) of the desired compound as a yellow solid.

reactant | N-tert-butoxycarbonyl 1-(5-fluorobenzofur-7-yl)-2-aminopropane | 1.7 mMol, 0.50 gm | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=COC21)F)C | C16H20FNO3
reactant | n-butyllithium | 1.6 M, 2.4 mL | C(CCC)[Li]
reactant | dimethylformamide | 8.52 mMol, 0.66 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl 1-(2-formyl-5-fluorobenzofur-7-yl)-2-aminopropane | 0.38 gm, 69% | C(C)(C)(C)OC(=O)NC(CC1=CC(=CC=2C=C(OC21)C=O)F)C | C17H20FNO4
